US07482330B2
A. 5-Bromo-3-[2-(4-methoxy-phenyl)-ethyl]-indole-1-carboxylic acid diethylamide
To a solution of 4-methoxybenzyl triphenyphosphonium chloride (7.5 g, 18 mmol) in anhydrous THF (75 mL) at −78° C. was added LDA (9.0 mL, 18 mmol) and the resulting reaction mixture was allowed to stir at −78° C. for 1 h. Thereafter, 5-bromo-3-formyl-indole-1-carboxylic acid diethylamide (1.9 g, 6 mmol, Example 1, Part A) was added and the resulting reaction mixture was allowed to stir at −78° C. for 1 h and then warmed to room temperature to stir overnight. The reaction mixture was poured onto 1N HCl solution and extracted with ethyl acetate. The combined ethyl acetate extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The crude product was purified by chromatography on silica gel eluting with ethyl acetate/hexane (1:4) to provide the mixture of alkenes (2.3 g, 90%, E:Z ˜1:1) as a brown oil. A solution of the above alkenes (2.3 g, 5.4 mmol) in dichloromethane (100 mL) was hydrogenated over Adam's catalyst (300 mg) under H2 (15 psi) for 2 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo. The crude product was purified by chromatography on silica gel eluting with ethyl acetate/hexane (1:4) to provide the title compound (1.43 g, 62%) as a colorless oil.

reactant | 4-methoxybenzyl triphenyphosphonium chloride | 18 mmol, 7.5 g | [Cl-].COC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | LDA | 18 mmol, 9.0 mL | [Li+].CC(C)[N-]C(C)C
reactant | 5-bromo-3-formyl-indole-1-carboxylic acid diethylamide | C(C)N(C(=O)N1C=C(C2=CC(=CC=C12)Br)C=O)CC | C14H15BrN2O2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | Adam's catalyst | 300 mg | O=[Pt]=O
product | 5-Bromo-3-[2-(4-methoxy-phenyl)-ethyl]-indole-1-carboxylic acid diethylamide | 1.43 g, 62% | C(C)N(C(=O)N1C=C(C2=CC(=CC=C12)Br)CCC1=CC=C(C=C1)OC)CC | C22H25BrN2O2
